US04753941
The procedure is similar to that described in Example 2, but starting with 6-methoxy-3-pyridazinecarboxylic acid (2.2 g), N,N'-carbonyldiimidazole (2.3 g) and 2-amino-7-phenoxy-1,8-naphthyridine (2.7 g). The product obtained by precipitation in water is purified by recrystallization in acetonitrile (300 cc). N-(7-Phenoxy-1,8-naphthyridin-2-yl)-6-methoxy-3-pyridazinecarboxamide (3 g), m.p. 95° C., is thereby obtained.

reactant | 6-methoxy-3-pyridazinecarboxylic acid | 2.2 g | COC1=CC=C(N=N1)C(=O)O | C6H6N2O3
reactant | 2-amino-7-phenoxy-1,8-naphthyridine | 2.7 g | NC1=NC2=NC(=CC=C2C=C1)OC1=CC=CC=C1 | C14H11N3O
solvent | water | O | H2O
product | N-(7-Phenoxy-1,8-naphthyridin-2-yl)-6-methoxy-3-pyridazinecarboxamide | 3 g | O(C1=CC=CC=C1)C1=CC=C2C=CC(=NC2=N1)NC(=O)C=1N=NC(=CC1)OC | C20H15N5O3
